US08748613B2
(R)-quinuclidin-3-yl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate (120 mg, 0.34 mmol) and 2-bromo-1-phenylethanone (73.7 mg, 0.37 mmol) were dissolved in acetonitrile (5 ml) and stirred at room temperature for 16 hours. Acetonitrile was evaporated, the residue was taken up with little EtOAc (2 ml) and then Et2O was added. The white solid that precipitated out was recovered by suction filtration and washed on the filter paper with Et2O. The solid was dried to obtain (3R)-3-(2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide (115.8 mg, 61.9% yield).

reactant | (R)-quinuclidin-3-yl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate | 0.34 mmol, 120 mg | CC1CN(CC(C1)C)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C22H32N2O2
reactant | 2-bromo-1-phenylethanone | 0.37 mmol, 73.7 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 115.8 mg, 61.9% yield | [Br-].CC1CN(CC(C1)C)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C30H39N2O3.BrH/c1-22-17-23(2)19-31(18-22)29(26-11-7-4-8-12-26)30(34)35-28-21-32(15-13-25(28)14-16-32)20-27(33)24-9-5-3-6-10-24;/h3-12,22-23,25,28-29H,13-21H2,1-2H3;1H/q+1;/p-1/t22?,23?,25?,28-,29?,32?;/m0./s1
